US08729263B2
Following GENERAL METHOD 5-1 for phenol alkylation, Cs2CO3 (485 mg, 1.489 mmol) was added to a solution of 7-(benzyloxy)-6-bromonaphthalen-2-ol (490 mg, 1.489 mmol) in acetone (14.90 mL) at RT. The reaction mixture was stirred for 5 min then ((3-bromopropoxy)methyl)benzene (682 mg, 2.98 mmol) was added, followed by addition of NaI (446 mg, 2.98 mmol). The reaction mixture was heated to 60° C. and stirred overnight, then filtered, washed with acetone and concentrated in vacuo. The resulting residue was partitioned between Et2O (60 mL) and water (20 mL). After separation, the organic layer was washed with saturated aq. sodium sulfite solution (20 mL), 2 M Na2CO3, and brine. The organic layer was then dried over MgSO4, filtered, and concentrated in vacuo. Silica gel chromatography (10-60% EtOAc/heptane) afforded 3-(benzyloxy)-6-(3-(benzyloxy)propoxy)-2-bromonaphthalene (422 mg, 0.884 mmol, 60% yield) as a white solid (eluting at 30% EtOAc). LCMS Rt=1.81 min (condition C); LCMS (M+1)=479.9.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 1.489 mmol, 485 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 7-(benzyloxy)-6-bromonaphthalen-2-ol | 1.489 mmol, 490 mg | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)O)Br | C17H13BrO2
reactant | ((3-bromopropoxy)methyl)benzene | 2.98 mmol, 682 mg | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | NaI | 2.98 mmol, 446 mg | [Na+].[I-]
solvent | acetone | 14.90 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(benzyloxy)-6-(3-(benzyloxy)propoxy)-2-bromonaphthalene | 0.884 mmol, 422 mg, 60% yield | C(C1=CC=CC=C1)OC=1C(=CC2=CC=C(C=C2C1)OCCCOCC1=CC=CC=C1)Br | C27H25BrO3
